US06838567B1
(R)-3-Chloro-2-pyrrolidinone (62.5 mg, optical purity 75.3% ee) was dissolved in 5 ml of water, 319.1 mg of barium hydroxide octahydrate was added, and the solution was stirred at room temperature for 16 hours. Without particularly isolating (R)-4-amino-2-chlorobutyric acid in the reaction solution, the mixture was further stirred at 100° C. for 30 minutes. Without particularly isolating (S)-azetidine-2-carboxylic acid in the reaction solution, 6 N hydrochloric acid was added to the reaction solution to adjust pH to 9.6, 224.3 mg of sodium carbonate and 233.1 mg of di-tert-butyl dicarbonate were added, and the mixture was stirred at room temperature for 10 hours. This was adjusted to pH 1.9 by addition of 6 N hydrochloric acid and then extracted three times with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and then dried over sodium sulfate, and the solvent was distilled off to give (S)-N-(tert-butoxycarbonyl)azetidine-2-carboxylic acid (yield 71.8%, optical purity 27.6% ee). The yield was determined by high performance liquid chromatography using highly pure (S)-N-(tert-butoxycarbonyl)azetidine-2-carboxylic acid as a standard.

reactant | (R)-3-Chloro-2-pyrrolidinone | 62.5 mg | Cl[C@H]1C(NCC1)=O | C4H6ClNO
reactant | barium hydroxide octahydrate | 319.1 mg | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | (R)-4-amino-2-chlorobutyric acid | NCC[C@H](C(=O)O)Cl | C4H8ClNO2
reactant | (S)-azetidine-2-carboxylic acid | N1[C@@H](CC1)C(=O)O | C4H7NO2
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | sodium carbonate | 224.3 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 233.1 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | water | 5 ml | O | H2O
product | (S)-N-(tert-butoxycarbonyl)azetidine-2-carboxylic acid | yield 71.8% | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(=O)O | C9H15NO4
